US04234594
2[1-(1-Naphthyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline
1-Acetyl-2[1-(1-naphthyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline (15.27 g.) was treated with HCl in methanol as described in Example II to give 11.82 g. product, mp 221°-224°.

reactant | 1-Acetyl-2[1-(1-naphthyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | 15.27 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC=CC2=CC=CC=C12)C | C19H19N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2[1-(1-Naphthyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | C1(=CC=CC2=CC=CC=C12)N1N=C(C=C1NC=1NCCN1)C | C17H17N5
